CMOS TG 4-to-1 MUX
*
*    Copyright 2020 Pankajkumar Patro Licensed under the
*    Educational Community License, Version 2.0 (the "License"); you may
*    not use this file except in compliance with the License. You may
*    obtain a copy of the License at
*    
*    http://www.osedu.org/licenses/ECL-2.0
*
*    Unless required by applicable law or agreed to in writing,
*    software distributed under the License is distributed on an "AS IS"
*    BASIS, WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express
*    or implied. See the License for the specific language governing
*    permissions and limitations under the License.
*
***************************
* @Author: pankajpatro703 *
*  Released under ECL v2  *
***************************
vdd 1  0 dc    5v
va  a  0 pulse 0v 5v 0ns 10us 10us 0.50ms 1ms	*input A
vb  b  0 pulse 0v 5v 0ns 10us 10us 0.25ms 1ms	*input B
vc  c  0 pulse 0v 5v 0ns 10us 10us 0.12ms 1ms	*input C
vd  d  0 pulse 0v 5v 0ns 10us 10us 0.06ms 1ms	*input D
vs0 s0 0 pulse 0v 5v 0ns 10us 10us 1.00ms 2ms	*select S0
vs1 s1 0 pulse 0v 5v 0ns 10us 10us 2.00ms 4ms	*select S1
*output at node Y
**********
* n-mos *
mcn1  s01 s0  0   0  nmod w=10u l=2u
mcn2  s11 s1  0   0  nmod w=10u l=2u
mtn11 a   s01 n1  0  nmod w=10u l=2u
mtn12 b   s0  n1  0  nmod w=10u l=2u
mtn13 c   s01 n2  0  nmod w=10u l=2u
mtn14 d   s0  n2  0  nmod w=10u l=2u
mtn21 n1  s11 y   0  nmod w=10u l=2u
mtn22 n2  s1  y   0  nmod w=10u l=2u
* p-mos *
mcp1  s01 s0  1   1  pmod w=10u l=2u
mcp2  s11 s1  1   1  pmod w=10u l=2u
mtp11 n1  s0  a   1  pmod w=10u l=2u
mtp12 n1  s01 b   1  pmod w=10u l=2u
mtp13 n2  s0  c   1  pmod w=10u l=2u
mtp14 n2  s01 d   1  pmod w=10u l=2u
mtp21 y   s1  n1  1  pmod w=10u l=2u
mtp22 y   s11 n2  1  pmod w=10u l=2u
**********
.model nmod nmos vto=1v  kp=20u
.model pmod pmos vto=-1v kp=20u
.tran 0ns 4ms 10us 100us
.control
run
plot v(y) v(s0) v(s1)
plot v(a) v(b) v(c) v(d)
.endc
.end
